* SPICE3 file created from layout.ext - technology: sky130A

.subckt layout WL VDD GND BL BLB
X0 GND Q QB GND sky130_fd_pr__nfet_01v8 ad=0.252 pd=2.28 as=0.2436 ps=2.26 w=0.84 l=0.15
X1 Q QB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.1218 pd=1.42 as=0.1428 ps=1.52 w=0.42 l=0.15
X2 Q WL BL GND sky130_fd_pr__nfet_01v8 ad=0.2205 pd=1.96 as=0.1827 ps=1.84 w=0.63 l=0.15
X3 QB WL BLB GND sky130_fd_pr__nfet_01v8 ad=0.2205 pd=1.96 as=0.1827 ps=1.84 w=0.63 l=0.15
X4 Q QB GND GND sky130_fd_pr__nfet_01v8 ad=0.2436 pd=2.26 as=0.2856 ps=2.36 w=0.84 l=0.15
X5 VDD Q QB VDD sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
C0 QB BLB 0.02592f
C1 VDD BL 0
C2 Q WL 0.0856f
C3 BLB WL 0.01337f
C4 Q BLB 0
C5 QB VDD 0.11032f
C6 QB BL 0.00237f
C7 VDD WL 0.10346f
C8 BL WL 0.01147f
C9 Q VDD 0.2194f
C10 Q BL 0.01908f
C11 VDD BLB 0
C12 QB WL 0.02848f
C13 Q QB 0.0605f
C14 BL GND 0.07757f
C15 BLB GND 0.09193f
C16 WL GND 1.26554f
C17 VDD GND 0.73102f
C18 QB GND 0.60211f 
C19 Q GND 0.48382f 
.ends layout
