.include "/home/vedaant/Desktop/VLSI/SRAM/layout/layout.spice"
.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

*Power
VDD VDD 0 1.8
VWL WL 0 PULSE(0 1.8 10n 100p 100p 5n 20n)
*VBL  BL 0 PULSE(0 1.8 0 100p 100p 10n 20n)
*VBLB BLB 0 PULSE(1.8 0 0 100p 100p 10n 20n)
RBL VDD BL 1Meg
RBLB VDD BLB 1Meg
CBL BL 0 100f
CBLB BLB 0 100f
X1 WL VDD GND BL BLB layout

*.ic v(x1.Q)=1.8 v(x1.QB)=0
.tran 10p 20n

* Write Delay
*.measure tran tWL TRIG v(WL) VAL=0.9 RISE=2
*.measure tran tQ  TARG v(x1.Q) VAL=0.9 FALL=1
*.measure tran WriteZeroDelay PARAM='tQ-tWL'

* Supply Current
*.measure tran AvgCurrent AVG I(VDD)

* Peak Current
*.measure tran PeakCurrent MAX I(VDD)

* Average Power
*.measure tran AvgPower PARAM='1.8*AvgCurrent'

*.measure tran tBLB TARG v(BLB) VAL=1.7 FALL=1
*.measure tran ReadDelay PARAM='tBLB-tWL'

.control
run

*print WriteZeroDelay
*print AvgCurrent
*print PeakCurrent
*print AvgPower

plot v(BL)
plot v(BLB)
plot v(WL)


.endc

.end
